*
*|DSPF 1.5
*
*|DATE "Wed May  8 11:59:22 2013"
*|VENDOR "Cadence Design Systems"
*|PROGRAM "Cadence Extraction QRC"
*|VERSION "12.1 Linux 64 bit - (Fri Mar 15 17:53:47 PDT 2013)"
*|DESIGN "SDFFX2"
*|DIVIDER /
*|DELIMITER :
*|DeviceFingerDelim "@"
*|BUSBIT []
** caps2d version: 10
*
.GLOBAL  VDD VSS
*
.SUBCKT  SDFFX2 D CK SI QN Q SE
*
*Net Section
*
*|GROUND_NET VSS
*
*|NET D 2.94968e-16
*|P (D X 0 0.7000 1.2350)
*|I (Mmn11:g Mmn11 g X 0 0.5375 0.5375)
*|I (Mmp11:g Mmp11 g X 0 0.5375 1.2325)
*|S (D:2 0.5000 1.0250)
C1 Mmp11:g VSS 3.51228e-17
C2 Mmn11:g VSS 7.60944e-17
C3 D:2 VSS 1.33128e-16
C4 D VSS 5.06231e-17
Rl1 D:2 Mmn11:g 145.386673 $W=0.039
Rl2 Mmp11:g D:2 24.232828 $W=0.039
Rk3 D D:2 45.226101 $W=0.1
*
*|NET CK 2.16181e-16
*|P (CK X 0 4.1000 0.6650)
*|I (Mmn20:g Mmn20 g X 0 4.0825 0.5875)
*|I (Mmp20:g Mmp20 g X 0 4.1375 1.0725)
*|S (CK:2 4.1100 0.7950)
C5 Mmp20:g VSS 3.147e-17
C6 Mmn20:g VSS 2.84447e-17
C7 CK:2 VSS 9.10889e-17
C8 CK VSS 6.51772e-17
Rl4 CK:2 Mmn20:g 39.560440 $W=0.039
Rl5 Mmp20:g CK:2 53.846153 $W=0.039
Rk6 CK CK:2 45.078011 $W=0.1
*
*|NET SI 2.55955e-16
*|P (SI X 0 1.3000 0.8550)
*|I (Mmn13:g Mmn13 g X 0 1.1725 0.5375)
*|I (Mmp13:g Mmp13 g X 0 1.1725 1.2325)
*|S (SI:2 1.2100 0.9000)
*|S (SI:4 1.2100 0.9000)
C9 Mmp13:g VSS 6.55088e-17
C10 Mmn13:g VSS 3.75096e-17
C11 SI:2 VSS 1.14659e-16
C12 SI VSS 3.82774e-17
Rl7 SI:2 Mmn13:g 97.309753 $W=0.039
Rl8 Mmp13:g SI:2 72.309746 $W=0.039
Rk9 SI SI:4 0.052936 $W=0.13
Rk10 SI:2 SI:4 45.000000 $W=0.08
*
*|NET QN 1.4748e-16
*|P (QN X 0 4.9000 0.6650)
*|I (Mmn57:d Mmn57 d X 0 4.9300 0.5300)
*|I (Mmp57@1:d Mmp57@1 d X 0 4.9300 1.1600)
C13 Mmp57@1:d VSS 9.5145e-17
C14 Mmn57:d VSS 2.72486e-17
C15 QN VSS 2.50867e-17
Rk11 Mmn57:d QN 75.036972 $W=0.115
Rk12 Mmp57@1:d QN 21.028334 $W=0.08
*
*|NET Q 1.67081e-16
*|P (Q X 0 4.5000 0.6650)
*|I (Mmn55:d Mmn55 d X 0 4.4600 0.5300)
*|I (Mmp55@1:d Mmp55@1 d X 0 4.5050 1.1600)
*|S (Q:3 4.4600 0.6000)
C16 Mmp55@1:d VSS 9.10422e-17
C17 Mmn55:d VSS 3.24067e-17
C18 Q VSS 4.36319e-17
Rk13 Q:3 Q 0.041007 $W=0.1
Rk14 Q:3 Mmn55:d 75.000000 $W=0.1
Rk15 Mmp55@1:d Q 21.011875 $W=0.09
*
*|NET SE 4.00727e-16
*|P (SE X 0 0.3000 0.8550)
*|I (Mmn10:g Mmn10 g X 0 0.3325 0.5375)
*|I (Mmn14:g Mmn14 g X 0 0.9175 0.5375)
*|I (Mmp10:g Mmp10 g X 0 0.3325 1.2325)
*|I (Mmp12:g Mmp12 g X 0 0.7175 1.2325)
*|S (SE:2 0.3050 0.8750)
*|S (SE:5 0.6800 0.8650)
*|S (SE:7 0.3050 0.8750)
C19 Mmp12:g VSS 4.25288e-17
C20 Mmp10:g VSS 3.95462e-17
C21 Mmn14:g VSS 4.70367e-17
C22 Mmn10:g VSS 3.59454e-17
C23 SE:2 VSS 3.71698e-17
C24 SE:5 VSS 1.27404e-16
C25 SE VSS 7.10959e-17
Rl16 SE:2 Mmn10:g 89.153305 $W=0.039
Rl17 Mmn14:g SE:5 153.400269 $W=0.039
Rl18 Mmp10:g SE:2 83.384079 $W=0.039
Rl19 SE:5 Mmp12:g 85.771294 $W=0.039
Rk20 SE:7 SE 0.002303 $W=0.12
Rk21 SE:5 SE:7 45.228050 $W=0.1
Rk22 SE:2 SE:7 45.000000 $W=0.1
*
*|NET SEb 6.47727e-16
*|I (Mmn10:d Mmn10 d X 0 0.2400 0.5375)
*|I (Mmn12:g Mmn12 g X 0 0.6425 0.5375)
*|I (Mmp10:d Mmp10 d X 0 0.2400 1.2325)
*|I (Mmp14:g Mmp14 g X 0 1.0675 1.2325)
*|S (SEb:2 0.6800 0.2100)
*|S (SEb:4 1.0300 0.9700)
*|S (SEb:5 0.2300 0.6850)
C26 Mmp14:g VSS 6.14838e-17
C27 Mmp10:d VSS 5.39404e-17
C28 Mmn12:g VSS 6.4864e-17
C29 Mmn10:d VSS 1.64562e-17
C30 SEb:5 VSS 1.19943e-16
C31 SEb:2 VSS 1.69132e-16
C32 SEb:4 VSS 1.61908e-16
Rl23 Mmn12:g SEb:2 128.848206 $W=0.039
Rl24 Mmp14:g SEb:4 90.386673 $W=0.039
Rk25 SEb:4 SEb:2 0.811757 $W=0.08
Rk26 SEb:2 SEb:5 0.659226 $W=0.08
Rk27 SEb:5 Mmn10:d 75.074921 $W=0.09
Rk28 SEb:5 Mmp10:d 62.518967 $W=0.09
*
*|NET net449 8.64555e-20
*|I (Mmn11:d Mmn11 d X 0 0.5900 0.5375)
*|I (Mmn12:s Mmn12 s X 0 0.5900 0.5375)
C33 Mmn11:d VSS 8.64555e-20
Rmw29 Mmn12:s Mmn11:d 0.001000 $W=1
*
*|NET Db 5.13706e-16
*|I (Mmn12:d Mmn12 d X 0 0.7800 0.5375)
*|I (Mmn25:s Mmn25 s X 0 1.8025 0.5625)
*|I (Mmp12:d Mmp12 d X 0 0.8925 1.2325)
*|I (Mmp25:s Mmp25 s X 0 1.8950 1.1475)
*|S (Db:3 1.8850 1.1000)
*|S (Db:5 0.8700 1.1850)
C34 Mmp25:s VSS 1.68623e-16
C35 Mmp12:d VSS 1.69687e-16
C36 Mmn25:s VSS 8.73008e-17
C37 Mmn12:d VSS 8.80949e-17
Rk30 Db:3 Db:5 0.988180 $W=0.08
Rk31 Db:5 Mmn12:d 75.449684 $W=0.09
Rk32 Mmn25:s Db:3 75.519547 $W=0.08
Rk33 Mmp12:d Db:5 62.000000 $W=0.08
Rk34 Mmp25:s Db:3 62.000000 $W=0.08
*
*|NET net461 1.52853e-18
*|I (Mmn14:s Mmn14 s X 0 1.0450 0.5375)
*|I (Mmn13:d Mmn13 d X 0 1.0450 0.5375)
C38 Mmn14:s VSS 1.52853e-18
Rmw35 Mmn13:d Mmn14:s 0.001000 $W=1
*
*|NET CKbb 9.97557e-16
*|I (Mmn21:d Mmn21 d X 0 1.4950 0.5375)
*|I (Mmn36:g Mmn36 g X 0 2.1875 0.5625)
*|I (Mmn40:g Mmn40 g X 0 2.7625 0.5625)
*|I (Mmp21:d Mmp21 d X 0 1.6750 1.2325)
*|I (Mmp25:g Mmp25 g X 0 1.9875 1.1475)
*|I (Mmp51:g Mmp51 g X 0 3.0825 1.1475)
*|S (CKbb:2 1.9000 0.8650)
*|S (CKbb:4 2.1500 0.2100)
*|S (CKbb:6 2.7900 0.7500)
*|S (CKbb:8 3.0550 0.9250)
*|S (CKbb:9 2.8500 0.7500)
*|S (CKbb:10 2.1500 0.4000)
*|S (CKbb:11 1.8950 0.4000)
*|S (CKbb:13 1.5050 0.5250)
C39 Mmp51:g VSS 6.09076e-17
C40 Mmp25:g VSS 3.81295e-17
C41 Mmp21:d VSS 1.03253e-16
C42 Mmn40:g VSS 3.5642e-17
C43 Mmn36:g VSS 6.92319e-17
C44 Mmn21:d VSS 1.01122e-16
C45 CKbb:11 VSS 6.7673e-17
C46 CKbb:10 VSS 8.23604e-17
C47 CKbb:9 VSS 1.11162e-16
C48 CKbb:2 VSS 1.28152e-16
C49 CKbb:4 VSS 5.01221e-17
C50 CKbb:6 VSS 5.69579e-17
C51 CKbb:8 VSS 9.28437e-17
Rl36 Mmn36:g CKbb:4 138.463593 $W=0.039
Rl37 Mmn40:g CKbb:6 76.461006 $W=0.039
Rl38 Mmp25:g CKbb:2 99.567703 $W=0.039
Rl39 Mmp51:g CKbb:8 76.461006 $W=0.039
Rk40 CKbb:9 CKbb:8 0.260450 $W=0.09
Rk41 CKbb:6 CKbb:9 0.015306 $W=0.125
Rk42 CKbb:10 CKbb:4 0.080498 $W=0.125
Rk43 CKbb:9 CKbb:10 0.766194 $W=0.08
Rk44 CKbb:11 CKbb:2 0.338164 $W=0.08
Rk45 CKbb:10 CKbb:11 0.206253 $W=0.09
Rk46 CKbb:11 CKbb:13 0.362571 $W=0.09
Rk47 Mmn21:d CKbb:13 75.000000 $W=0.08
Rk48 CKbb:13 Mmp21:d 62.609158 $W=0.08
*
*|NET CKb 9.00723e-16
*|I (Mmn21:g Mmn21 g X 0 1.4025 0.5375)
*|I (Mmn25:g Mmn25 g X 0 1.9825 0.5625)
*|I (Mmn51:g Mmn51 g X 0 3.1425 0.5625)
*|I (Mmn20:d Mmn20 d X 0 3.9500 0.5875)
*|I (Mmp21:g Mmp21 g X 0 1.5825 1.2325)
*|I (Mmp36:g Mmp36 g X 0 2.1925 1.1475)
*|I (Mmp40:g Mmp40 g X 0 2.8775 1.1475)
*|I (Mmp20:d Mmp20 d X 0 4.0450 1.0725)
*|S (CKb:1 2.1550 1.3550)
*|S (CKb:3 1.9825 0.7325)
*|S (CKb:4 1.5825 0.7325)
*|S (CKb:10 2.9150 1.3550)
*|S (CKb:13 4.0350 1.1200)
C52 Mmp20:d VSS 1.30885e-16
C53 Mmp40:g VSS 6.55101e-17
C54 Mmp36:g VSS 6.09503e-17
C55 Mmp21:g VSS 4.54392e-17
C56 Mmn20:d VSS 6.52974e-17
C57 Mmn51:g VSS 7.87326e-17
C58 Mmn25:g VSS 3.26943e-17
C59 Mmn21:g VSS 3.30225e-17
C60 CKb:4 VSS 3.76935e-17
C61 CKb:3 VSS 8.69364e-17
C62 CKb:1 VSS 9.65313e-17
C63 CKb:10 VSS 1.67031e-16
Rl49 CKb:3 CKb:4 150.390137 $W=0.039
Rl50 CKb:4 Mmn21:g 105.747124 $W=0.039
Rl51 CKb:3 Mmn25:g 30.450726 $W=0.039
Rl52 CKb:4 Mmp21:g 143.912277 $W=0.039
Rl53 CKb:1 Mmp36:g 69.232826 $W=0.039
Rl54 Mmp36:g CKb:3 170.697372 $W=0.039
Rl55 Mmp40:g CKb:10 69.232826 $W=0.039
Rl56 Mmn51:g Mmp40:g 222.208221 $W=0.039
Rk57 CKb:10 CKb:1 0.519770 $W=0.09
Rk58 CKb:13 CKb:10 0.921323 $W=0.09
Rk59 Mmn20:d CKb:13 75.421074 $W=0.09
Rk60 Mmp20:d CKb:13 62.000000 $W=0.09
*
*|NET n20 3.08583e-16
*|I (Mmn25:d Mmn25 d X 0 2.0850 0.5625)
*|I (Mmn30:g Mmn30 g X 0 2.5575 0.5625)
*|I (Mmp25:d Mmp25 d X 0 2.0900 1.1475)
*|I (Mmp30:g Mmp30 g X 0 2.5625 1.1475)
*|S (n20:2 2.5600 0.7350)
*|S (n20:3 2.4400 0.7350)
*|S (n20:5 2.1025 0.7350)
C64 Mmp30:g VSS 5.03582e-17
C65 Mmp25:d VSS 4.11499e-17
C66 Mmn30:g VSS 3.38161e-17
C67 Mmn25:d VSS 3.84254e-17
C68 n20:5 VSS 5.09407e-17
C69 n20:2 VSS 2.58555e-17
C70 n20:3 VSS 6.80377e-17
Rl61 n20:2 n20:3 59.729683 $W=0.094
Rl62 n20:2 Mmn30:g 34.403557 $W=0.039
Rl63 Mmp30:g n20:2 113.249710 $W=0.039
Rk64 n20:3 n20:5 0.219333 $W=0.09
Rk65 n20:5 Mmn25:d 75.095741 $W=0.105
Rk66 n20:5 Mmp25:d 62.260834 $W=0.09
*
*|NET net429 0
*|I (Mmn36:s Mmn36 s X 0 2.2400 0.5625)
*|I (Mmn35:d Mmn35 d X 0 2.2400 0.5625)
Rmw67 Mmn35:d Mmn36:s 0.001000 $W=1
*
*|NET mout 3.65805e-16
*|I (Mmn35:g Mmn35 g X 0 2.2925 0.5625)
*|I (Mmn30:d Mmn30 d X 0 2.6600 0.5625)
*|I (Mmp35:g Mmp35 g X 0 2.2975 1.1475)
*|I (Mmp30:d Mmp30 d X 0 2.7200 1.1475)
*|S (mout:2 2.3350 0.9400)
*|S (mout:4 2.6175 0.9400)
C71 Mmp30:d VSS 2.408e-17
C72 Mmp35:g VSS 6.08293e-17
C73 Mmn30:d VSS 6.43574e-17
C74 Mmn35:g VSS 7.44818e-17
C75 mout:4 VSS 5.28895e-17
C76 mout:2 VSS 8.91668e-17
Rl68 mout:2 Mmn35:g 101.526459 $W=0.039
Rl69 Mmp35:g mout:2 24.232828 $W=0.039
Rk70 mout:2 mout:4 45.207409 $W=0.09
Rk71 mout:4 Mmn30:d 75.275467 $W=0.09
Rk72 mout:4 Mmp30:d 62.142372 $W=0.06
*
*|NET n30 3.57479e-16
*|I (Mmn40:d Mmn40 d X 0 2.9525 0.5625)
*|I (Mmn45:g Mmn45 g X 0 3.4575 0.5325)
*|I (Mmp40:d Mmp40 d X 0 2.9800 1.1475)
*|I (Mmp45:g Mmp45 g X 0 3.5175 1.1950)
*|S (n30:2 3.4575 0.7350)
*|S (n30:3 3.4000 0.7350)
*|S (n30:5 3.2200 0.7350)
C77 Mmp45:g VSS 5.92325e-17
C78 Mmp40:d VSS 6.83591e-17
C79 Mmn45:g VSS 3.31533e-17
C80 Mmn40:d VSS 4.76289e-17
C81 n30:5 VSS 6.07191e-17
C82 n30:2 VSS 2.6721e-17
C83 n30:3 VSS 6.16647e-17
Rl73 n30:2 n30:3 49.401237 $W=0.094
Rl74 n30:2 Mmn45:g 24.702444 $W=0.039
Rl75 Mmp45:g n30:2 113.492775 $W=0.039
Rk76 n30:3 n30:5 0.142163 $W=0.08
Rk77 n30:5 Mmn40:d 75.230537 $W=0.06
Rk78 n30:5 Mmp40:d 62.431263 $W=0.08
*
*|NET net436 1.34497e-18
*|I (Mmn51:s Mmn51 s X 0 3.1975 0.5625)
*|I (Mmn50:d Mmn50 d X 0 3.1975 0.5625)
C84 Mmn51:s VSS 1.34497e-18
Rmw79 Mmn50:d Mmn51:s 0.001000 $W=1
*
*|NET qbint 1.0314e-15
*|I (Mmn50:g Mmn50 g X 0 3.2525 0.5625)
*|I (Mmn45:d Mmn45 d X 0 3.5500 0.5325)
*|I (Mmn55:g Mmn55 g X 0 4.3575 0.5300)
*|I (Mmn56:g Mmn56 g X 0 5.2625 0.5875)
*|I (Mmp50:g Mmp50 g X 0 3.2525 1.1475)
*|I (Mmp45:d Mmp45 d X 0 3.6100 1.1950)
*|I (Mmp56:g Mmp56 g X 0 5.2625 1.0725)
*|S (qbint:1 3.3750 0.9250)
*|S (qbint:2 3.2525 0.9250)
*|S (qbint:12 5.3550 0.3300)
*|S (qbint:18 3.5600 0.4900)
*|S (qbint:19 3.5900 0.8950)
C85 Mmp56:g VSS 5.95113e-17
C86 Mmp45:d VSS 3.24979e-17
C87 Mmp50:g VSS 4.87606e-17
C88 Mmn56:g VSS 3.36692e-17
C89 Mmn55:g VSS 4.69732e-16
C90 Mmn45:d VSS 8.51141e-17
C91 Mmn50:g VSS 7.15843e-17
C92 qbint:19 VSS 3.23885e-17
C93 qbint:2 VSS 3.33593e-17
C94 qbint:1 VSS 7.31274e-17
C95 qbint:12 VSS 9.16542e-17
Rl80 qbint:1 qbint:2 56.500069 $W=0.094
Rl81 qbint:2 Mmn50:g 107.406433 $W=0.039
Rl82 qbint:12 Mmn56:g 114.207962 $W=0.039
Rl83 qbint:2 Mmp50:g 40.098740 $W=0.039
Rl84 Mmn56:g Mmp56:g 117.307693 $W=0.039
Rk85 qbint:19 qbint:1 0.127342 $W=0.09
Rk86 qbint:19 qbint:18 0.286128 $W=0.09
Rk87 qbint:18 Mmn45:d 75.000000 $W=0.09
Rk88 Mmn55:g qbint:12 0.476424 $W=0.09
Rk89 qbint:18 Mmn55:g 0.608850 $W=0.09
Rk90 qbint:19 Mmp45:d 62.142921 $W=0.1
*
*|NET net367 2.80663e-16
*|I (Mmn57:g Mmn57 g X 0 4.8275 0.5300)
*|I (Mmn56:d Mmn56 d X 0 5.3550 0.5875)
*|I (Mmp56:d Mmp56 d X 0 5.3550 1.0725)
*|S (net367:6 5.1200 0.8650)
*|S (net367:9 5.3500 0.8750)
C96 Mmp56:d VSS 1.44769e-17
C97 Mmn56:d VSS 2.60359e-17
C98 Mmn57:g VSS 1.72597e-16
C99 net367:9 VSS 2.01144e-17
C100 net367:6 VSS 4.74388e-17
Rl91 Mmn57:g net367:6 54.528694 $W=0.094
Rk92 net367:9 net367:6 0.115153 $W=0.1
Rk93 net367:9 Mmn56:d 75.155968 $W=0.11
Rk94 net367:9 Mmp56:d 62.093487 $W=0.1
*
*|NET net384 1.63206e-18
*|I (Mmp11:d Mmp11 d X 0 0.6275 1.2325)
*|I (Mmp12:s Mmp12 s X 0 0.6275 1.2325)
C101 Mmp11:d VSS 1.63206e-18
Rmw95 Mmp12:s Mmp11:d 0.001000 $W=1
*
*|NET net392 1.24686e-18
*|I (Mmp14:s Mmp14 s X 0 1.1200 1.2325)
*|I (Mmp13:d Mmp13 d X 0 1.1200 1.2325)
C102 Mmp14:s VSS 1.24686e-18
Rmw96 Mmp13:d Mmp14:s 0.001000 $W=1
*
*|NET net356 0
*|I (Mmp36:s Mmp36 s X 0 2.2450 1.1475)
*|I (Mmp35:d Mmp35 d X 0 2.2450 1.1475)
Rmw97 Mmp35:d Mmp36:s 0.001000 $W=1
*
*|NET net376 1.91844e-18
*|I (Mmp51:s Mmp51 s X 0 3.1675 1.1475)
*|I (Mmp50:d Mmp50 d X 0 3.1675 1.1475)
C103 Mmp51:s VSS 1.91844e-18
Rmw98 Mmp50:d Mmp51:s 0.001000 $W=1
*
*Instance Section
*
Mmn10	Mmn10:d	Mmn10:g	VSS	VSS	g45n1hvt
+ L=0.045U	W=0.145U
+ AD=0.0203P	AS=0.0232P	PD=0.57U	PS=0.61U
+ fw=1.45e-07 sa=1.4e-07 sb=1.21e-06 sca=16.2011 scb=0.0172667 scc=0.0012292
Mmn11	Mmn11:d	Mmn11:g	VSS	VSS	g45n1hvt
+ L=0.045U	W=0.145U
+ AD=0.0087P	AS=0.0232P	PD=0.41U	PS=0.61U
+ fw=1.45e-07 sa=3.45e-07 sb=1.005e-06 sca=16.2011 scb=0.0172667 scc=0.0012292
Mmn12	Mmn12:d	Mmn12:g	Mmn12:s	VSS	g45n1hvt
+ L=0.045U	W=0.145U
+ AD=0.03335P	AS=0.0087P	PD=0.75U	PS=0.41U
+ fw=1.45e-07 sa=4.5e-07 sb=9e-07 sca=16.2011 scb=0.0172667 scc=0.0012292
Mmn14	Mmn12:d	Mmn14:g	Mmn14:s	VSS	g45n1hvt
+ L=0.045U	W=0.145U
+ AD=0.03335P	AS=0.03045P	PD=0.75U	PS=0.71U
+ fw=1.45e-07 sa=7.25e-07 sb=6.25e-07 sca=16.2011 scb=0.0172667 scc=0.0012292
Mmn13	Mmn13:d	Mmn13:g	VSS	VSS	g45n1hvt
+ L=0.045U	W=0.145U
+ AD=0.03045P	AS=0.02682P	PD=0.71U	PS=0.66U
+ fw=1.45e-07 sa=9.8e-07 sb=3.7e-07 sca=16.2011 scb=0.0172667 scc=0.0012292
Mmn21	Mmn21:d	Mmn21:g	VSS	VSS	g45n1hvt
+ L=0.045U	W=0.145U
+ AD=0.0203P	AS=0.02682P	PD=0.57U	PS=0.66U
+ fw=1.45e-07 sa=1.21e-06 sb=1.4e-07 sca=16.2011 scb=0.0172667 scc=0.0012292
Mmn25	Mmn25:d	Mmn25:g	Mmn25:s	VSS	g45n1hvt
+ L=0.045U	W=0.145U
+ AD=0.0232P	AS=0.04567P	PD=0.61U	PS=0.92U
+ fw=1.45e-07 sa=3.15e-07 sb=1.615e-06 sca=19.1673 scb=0.0200674 scc=0.00182521
Mmn36	Mmn25:d	Mmn36:g	Mmn36:s	VSS	g45n1hvt
+ L=0.045U	W=0.145U
+ AD=0.0232P	AS=0.0087P	PD=0.61U	PS=0.41U
+ fw=1.45e-07 sa=5.2e-07 sb=1.41e-06 sca=19.1673 scb=0.0200674 scc=0.00182521
Mmn35	Mmn35:d	Mmn35:g	VSS	VSS	g45n1hvt
+ L=0.045U	W=0.145U
+ AD=0.0087P	AS=0.0811P	PD=0.41U	PS=1.55U
+ fw=1.45e-07 sa=6.25e-07 sb=1.305e-06 sca=19.1673 scb=0.0200674 scc=0.00182521
Mmn30	Mmn30:d	Mmn30:g	VSS	VSS	g45n1hvt
+ L=0.045U	W=0.145U
+ AD=0.0232P	AS=0.0811P	PD=0.61U	PS=1.55U
+ fw=1.45e-07 sa=8.9e-07 sb=1.04e-06 sca=19.1673 scb=0.0200674 scc=0.00182521
Mmn40	Mmn40:d	Mmn40:g	Mmn30:d	VSS	g45n1hvt
+ L=0.045U	W=0.145U
+ AD=0.04857P	AS=0.0232P	PD=0.96U	PS=0.61U
+ fw=1.45e-07 sa=1.095e-06 sb=8.35e-07 sca=19.1673 scb=0.0200674 scc=0.00182521
Mmn51	Mmn40:d	Mmn51:g	Mmn51:s	VSS	g45n1hvt
+ L=0.045U	W=0.145U
+ AD=0.04857P	AS=0.00942P	PD=0.96U	PS=0.42U
+ fw=1.45e-07 sa=1.475e-06 sb=4.55e-07 sca=19.1673 scb=0.0200674 scc=0.00182521
Mmn50	Mmn50:d	Mmn50:g	VSS	VSS	g45n1hvt
+ L=0.045U	W=0.145U
+ AD=0.00942P	AS=0.0292P	PD=0.42U	PS=0.73U
+ fw=1.45e-07 sa=1.585e-06 sb=3.45e-07 sca=19.1673 scb=0.0200674 scc=0.00182521
Mmn45	Mmn45:d	Mmn45:g	VSS	VSS	g45n1hvt
+ L=0.045U	W=0.205U
+ AD=0.0287P	AS=0.0292P	PD=0.69U	PS=0.73U
+ fw=2.05e-07 sa=1.29537e-06 sb=1.4e-07 sca=16.6038 scb=0.0171168 scc=0.00137311
Mmn20	Mmn20:d	Mmn20:g	VSS	VSS	g45n1hvt
+ L=0.045U	W=0.145U
+ AD=0.0319P	AS=0.0913P	PD=0.73U	PS=1.62U
+ fw=1.45e-07 sa=2.2e-07 sb=1.32e-06 sca=23.279 scb=0.0230742 scc=0.00267719
Mmn56	Mmn56:d	Mmn56:g	VSS	VSS	g45n1hvt
+ L=0.045U	W=0.145U
+ AD=0.0203P	AS=0.06272P	PD=0.57U	PS=1.67U
+ fw=1.45e-07 sa=1.4e-06 sb=1.4e-07 sca=23.279 scb=0.0230742 scc=0.00267719
Mmn55	Mmn55:d	Mmn55:g	VSS	VSS	g45n1hvt
+ L=0.045U	W=0.26U
+ AD=0.0416P	AS=0.09345P	PD=0.84U	PS=1.61U	M=2
+ fw=2.6e-07 sa=3.5125e-07 sb=9.25577e-07 sca=17.5885 scb=0.0172826 scc=0.00162584
Mmn57	Mmn57:d	Mmn57:g	VSS	VSS	g45n1hvt
+ L=0.045U	W=0.26U
+ AD=0.0416P	AS=0.07916P	PD=0.84U	PS=1.635U	M=2
+ fw=2.6e-07 sa=8.2125e-07 sb=4.55577e-07 sca=17.5885 scb=0.0172826 scc=0.00162584
Mmp10	Mmp10:d	Mmp10:g	VDD	VDD	g45p1hvt
+ L=0.045U	W=0.215U
+ AD=0.0301P	AS=0.0344P	PD=0.71U	PS=0.75U
+ fw=2.15e-07 sa=1.4e-07 sb=1.39e-06 sca=16.6694 scb=0.0168672 scc=0.000344817
Mmp11	Mmp11:d	Mmp11:g	VDD	VDD	g45p1hvt
+ L=0.045U	W=0.215U
+ AD=0.02903P	AS=0.0344P	PD=0.7U	PS=0.75U
+ fw=2.15e-07 sa=3.45e-07 sb=1.185e-06 sca=12.9619 scb=0.0106134 scc=0.000191935
Mmp12	Mmp12:d	Mmp12:g	Mmp12:s	VDD	g45p1hvt
+ L=0.045U	W=0.215U
+ AD=0.06558P	AS=0.02903P	PD=1.04U	PS=0.7U
+ fw=2.15e-07 sa=5.25e-07 sb=1.005e-06 sca=11.8125 scb=0.00941499 scc=0.000188107
Mmp14	Mmp12:d	Mmp14:g	Mmp14:s	VDD	g45p1hvt
+ L=0.045U	W=0.215U
+ AD=0.06558P	AS=0.0129P	PD=1.04U	PS=0.55U
+ fw=2.15e-07 sa=8.75e-07 sb=6.55e-07 sca=11.1138 scb=0.00912362 scc=0.000187967
Mmp13	Mmp13:d	Mmp13:g	VDD	VDD	g45p1hvt
+ L=0.045U	W=0.215U
+ AD=0.0129P	AS=0.11327P	PD=0.55U	PS=1.74U
+ fw=2.15e-07 sa=9.8e-07 sb=5.5e-07 sca=11.1138 scb=0.00912362 scc=0.000187967
Mmp21	Mmp21:d	Mmp21:g	VDD	VDD	g45p1hvt
+ L=0.045U	W=0.215U
+ AD=0.0301P	AS=0.11327P	PD=0.71U	PS=1.74U
+ fw=2.15e-07 sa=1.39e-06 sb=1.4e-07 sca=11.1138 scb=0.00912362 scc=0.000187967
Mmp25	Mmp25:d	Mmp25:g	Mmp25:s	VDD	g45p1hvt
+ L=0.045U	W=0.215U
+ AD=0.0344P	AS=0.0301P	PD=0.75U	PS=0.71U
+ fw=2.15e-07 sa=1.4e-07 sb=1.67e-06 sca=14.5646 scb=0.0142004 scc=0.000753562
Mmp36	Mmp25:d	Mmp36:g	Mmp36:s	VDD	g45p1hvt
+ L=0.045U	W=0.215U
+ AD=0.0344P	AS=0.0129P	PD=0.75U	PS=0.55U
+ fw=2.15e-07 sa=3.45e-07 sb=1.465e-06 sca=14.5646 scb=0.0142004 scc=0.000753562
Mmp35	Mmp35:d	Mmp35:g	VDD	VDD	g45p1hvt
+ L=0.045U	W=0.215U
+ AD=0.0129P	AS=0.0923P	PD=0.55U	PS=1.62U
+ fw=2.15e-07 sa=4.5e-07 sb=1.36e-06 sca=14.5646 scb=0.0142004 scc=0.000753562
Mmp30	Mmp30:d	Mmp30:g	VDD	VDD	g45p1hvt
+ L=0.045U	W=0.215U
+ AD=0.05805P	AS=0.0923P	PD=0.97U	PS=1.62U
+ fw=2.15e-07 sa=7.15e-07 sb=1.095e-06 sca=14.5646 scb=0.0142004 scc=0.000753562
Mmp40	Mmp40:d	Mmp40:g	Mmp30:d	VDD	g45p1hvt
+ L=0.045U	W=0.215U
+ AD=0.0344P	AS=0.05805P	PD=0.75U	PS=0.97U
+ fw=2.15e-07 sa=1.03e-06 sb=7.8e-07 sca=14.5646 scb=0.0142004 scc=0.000753562
Mmp51	Mmp40:d	Mmp51:g	Mmp51:s	VDD	g45p1hvt
+ L=0.045U	W=0.215U
+ AD=0.0344P	AS=0.02687P	PD=0.75U	PS=0.68U
+ fw=2.15e-07 sa=1.235e-06 sb=5.75e-07 sca=14.5646 scb=0.0142004 scc=0.000753562
Mmp50	Mmp50:d	Mmp50:g	VDD	VDD	g45p1hvt
+ L=0.045U	W=0.215U
+ AD=0.02687P	AS=0.09705P	PD=0.68U	PS=1.62U
+ fw=2.15e-07 sa=1.405e-06 sb=4.05e-07 sca=14.5646 scb=0.0142004 scc=0.000753562
Mmp45	Mmp45:d	Mmp45:g	VDD	VDD	g45p1hvt
+ L=0.045U	W=0.31U
+ AD=0.0434P	AS=0.09705P	PD=0.9U	PS=1.62U
+ fw=3.1e-07 sa=1.21032e-06 sb=1.4e-07 sca=13.1273 scb=0.0119313 scc=0.000538101
Mmp20	Mmp20:d	Mmp20:g	VDD	VDD	g45p1hvt
+ L=0.045U	W=0.215U
+ AD=0.0301P	AS=0.06857P	PD=0.71U	PS=1.19U
+ fw=2.15e-07 sa=1.4e-07 sb=1.265e-06 sca=22.8495 scb=0.0214046 scc=0.00242442
Mmp56	Mmp56:d	Mmp56:g	VDD	VDD	g45p1hvt
+ L=0.045U	W=0.215U
+ AD=0.0301P	AS=0.05727P	PD=0.71U	PS=1.15U
+ fw=2.15e-07 sa=1.265e-06 sb=1.4e-07 sca=28.2418 scb=0.0288633 scc=0.00256816
Mmp55@1	Mmp55@1:d	Mmn55:g	VDD	VDD	g45p1hvt
+ L=0.045U	W=0.39U
+ AD=0.0741P	AS=0.06549P	PD=1.16U	PS=1.145U	M=2
+ fw=3.9e-07 sa=2.77821e-07 sb=8.93846e-07 sca=17.2385 scb=0.0152696 scc=0.00137893
Mmp57@1	Mmp57@1:d	Mmn57:g	VDD	VDD	g45p1hvt
+ L=0.045U	W=0.39U
+ AD=0.0624P	AS=0.05984P	PD=1.1U	PS=1.125U	M=2
+ fw=3.9e-07 sa=7.17821e-07 sb=4.53846e-07 sca=17.7255 scb=0.0154354 scc=0.00137898
.ENDS
.END
